US08232390B2
Step 2: Methyl 3-cyclohexyl-2-[2-(hydroxymethyl)-4-methoxyphenyl]-1-prop-2-yn-1-yl-1H-indole-6-carboxylate
Tetrabutylammonium fluoride (1.3 eq., 1M solution in THF) was added dropwise to an ice cooled solution of methyl 3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1-prop-2-yn-1-yl-1H-indole-6-carboxylate in THF (0.036M). The mixture was stirred at 0° C. for 1 h then diluted with EtOAc, washed with saturated aq. NH4Cl, water and brine. The organic phase was dried over Na2SO4 and evaporated in vacuo. The residual material was subjected to flash chromatography (PE:EtOAc, 3:1). After evaporation of the solvent the product was obtained as white solid (64%). MS (ES+): 432.5 (M+H+).

reactant | Tetrabutylammonium fluoride | 1M, 1.3 eq. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methyl 3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1-prop-2-yn-1-yl-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC#C)C1=C(C=C(C=C1)OC)CO[Si](C(C)C)(C(C)C)C(C)C | C36H49NO4Si
solvent | THF | 0.036M | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 3-cyclohexyl-2-[2-(hydroxymethyl)-4-methoxyphenyl]-1-prop-2-yn-1-yl-1H-indole-6-carboxylate | 64% | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC#C)C1=C(C=C(C=C1)OC)CO | C27H29NO4
